US05998433
a) Synthesis of methyl 6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carboxylate
To a solution of 72 mg (0.40 mmol) of methyl 4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-carboxylate, 0.11 g (0.48 mmol) of 4-benzoylbenzoic acid and 0.11 ml (0.79 mmol) of triethylamine in 30 ml of dichloromethane, 0.07 ml (0.48 mmol) of diethyl cyanophosphonate was added dropwise at room temperature, followed by overnight stirring. After the reaction mixture was evaporated under reduced pressure, the resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=3/1 to 1/1) to yield the desired product.

reactant | methyl 4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-carboxylate | 0.40 mmol, 72 mg | O1C(=CC2=C1CNCC2)C(=O)OC | C9H11NO3
reactant | 4-benzoylbenzoic acid | 0.48 mmol, 0.11 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)O)C=C1 | C14H10O3
reactant | triethylamine | 0.79 mmol, 0.11 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 0.48 mmol, 0.07 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | methyl 6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carboxylate | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)N2CC3=C(CC2)C=C(O3)C(=O)OC)C=C1 | C23H19NO5
